US09376392B2
Preparation of 2,7-dimethylquinolin-6-ol:
To 4-amino-2-methylphenol (5.0 g, 40.6 mmol) was added 6M HCl (100 mL) and heated to 100° C. with stirring. Toluene (30 mL) was added followed with the slowly addition of crotonaldehyde (6.7 mL, 81.2 mmol) at 100° C. The mixture was stirred at 100° C. for 2 hours, cooled to room temperature. The water layer was separated, neutralized by NaHCO3 solution. The solid formed was filtered and collected. LCMS-ESI+: calc'd for C11H11NO: 174.1 (M+H+); Found: 174.2 (M+H+).

reactant | 4-amino-2-methylphenol | 40.6 mmol, 5.0 g | NC1=CC(=C(C=C1)O)C | C7H9NO
reactant | HCl | 6M, 100 mL | Cl | ClH
reactant | crotonaldehyde | 81.2 mmol, 6.7 mL | C(\C=C\C)=O | C4H6O
solvent | Toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 2,7-dimethylquinolin-6-ol | CC1=NC2=CC(=C(C=C2C=C1)O)C | C11H11NO
